US04409214
To a solution of benzhydryl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (6.79 g) in methylene chloride (68 ml) were added trifluoroacetic acid (29.1 g) and anisole (11.02 g) at 0° C., and the mixture was stirred at ambient temperature for 65 minutes. After the reaction mixture was evaporated, to the residue were added ethyl acetate and water, followed by adjusting to pH 7 with an aqueous solution of sodium bicarbonate. The separated aqueous solution was adjusted to pH 3.0 with 10% hydrochloric acid, and the precipitated substance was collected by filtration to give 7-[2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (1.88 g), mp 104°-116° C. (dec.).

reactant | benzhydryl 7-[2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 6.79 g | NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H24N4O4S2
reactant | trifluoroacetic acid | 29.1 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 11.02 g | C1(=CC=CC=C1)OC | C7H8O
solvent | methylene chloride | 68 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-aminothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.88 g | NC=1SC=C(N1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O | C14H14N4O4S2
